US07435837B2
Treatment of 1-bromo-2-chlorobenzene (5.63 g, 29.4 mmol) with (2-fluoro-6-methyoxyphenyl)boronic acid (5.0 g, 29.42 mol) generally according to the procedure described for Intermediate 37 afforded 2.0 g (29%) of 6-fluoro-2′-chlorobiphenyl-2-yl methyl ether. Treatment of 6-fluoro-2′-chlorobiphenyl-2-yl methyl ether with hydrogen bromide (50 mL, 30 wt. % in acetic acid) generally according to the procedure described for Example 395 afforded a brown oil. The oil was reacted with sodium hydride (0.34 g, 14.35 mmol) and allyl bromide (1.74 g, 14.35 mmol) followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 to provide 3-allyl-6-chloro-2′-chlorobiphenyl-2-ol. Treatment of 3-allyl-6-fluoro-2′-methylbiphenyl-2-ol (1.2 g, 4.56 mmol) with m-chloroperoxybenzoic acid (2.36 g, 13.68 mmol, 77%) and potassium carbonate (1.575 g, 11.4 mmol) generally according to the procedure described for Intermediate 9 afforded 0.7 g (55%) of (±)-[7-(2-chlorophenyl)-6-fluoro-2,3-dihydro-1-benzofuran-2-yl]methanol. Treatment (±)-[7-(2-chlorophenyl)-6-fluoro-2,3-dihydro-1-benzofuran-2-yl]methanol (1.5 g, 5.81 mmol) with p-toluenesulfonyl chloride (1.66 g, 8.71 mol) generally according to the procedure described for Intermediate 10 gave 0.9 g (82%) of (±)-[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.50 g, 1.15 mmol) with sodium azide (0.4 g, 6.15 mmol) generally according to the procedure described for Intermediate 98 afforded 0.35 g, (99%) of (±)-2-(azidomethyl)-7-(2-chlorophenyl)-6-fluoro-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-7-(2-chlorophenyl)-6-fluoro-2,3-dihydro-1-benzofuran (0.35 g, 1.15 mmol) in tetrahydrofuran (10 mL) with polymer-supported triphenylphosphine (0.60 g, 2.3 mmol) generally according to the procedure described for Example 154 provided 0.170 g (47%) of (±)-{[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine as a white solid, hydrochloride salt. mp 248-250° C.

reactant | 3-allyl-6-fluoro-2′-methylbiphenyl-2-ol | 4.56 mmol, 1.2 g | C(C=C)C1=C(C(=C(C=C1)F)C1=C(C=CC=C1)C)O | C16H15FO
reactant | m-chloroperoxybenzoic acid | 13.68 mmol, 2.36 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 11.4 mmol, 1.575 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-[7-(2-chlorophenyl)-6-fluoro-2,3-dihydro-1-benzofuran-2-yl]methanol | 0.7 g, 55% | ClC1=C(C=CC=C1)C1=C(C=CC=2CC(OC21)CO)F | C15H12ClFO2
